Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine
 
Attending: ___
 
Chief Complaint:
Rash
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH ESRD ___ LRRT ___ (on MMF and pred), HLD, who presents
with 5 days of right hip pain followed by 3 days of unilateral
right inguinal and groin rash. She has no known trauma 
triggering
the pain. She has had associated temp to 99 with mild chills. 
She
denies any back pain, decreased UOP, dysuria, hematuria,
incontinence, diarrhea, constipation. She has been taking all of
her medications as prescribed.  

On arrival to the ED her VS were 98.2 100 123/82 18 100% RA. Her
exam was notable for a "vesicular rash in an S2 dermatomal
distribution over R interior thigh and buttock". She was given 
IV
acyclovir 650mg and 1L NS. Nephrology was consulted and
recommended admission to ___ service for possible
shingles.  

Vital signs on transfer were 99.2 83 130/78 18 100% RA  

On arrival to the floor pt endorses the above history. Pain x2
days. Requesting Tylenol. Notes subjective fevers, Tm 99 for the
past 2 days. No chest pain or SOB, N/V/D or dysuria. 

ROS: Positive per HPI. Remaining 10 point ROS reviewed and
negative  
 
Past Medical History:
GPA  
ESRD s/p LRRT  
Squamous cell carcinoma  
AR  
H/O HPV 
 
Social History:
___
Family History:
Mother - CHF, hip fracture, osteoporosis  
Father - emphysema, DM, stroke, kidney stones  
Brother - T2DM  
Brother - T2DM  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VITAL SIGNS:  98.5 131 / 79 76 18 98 RA 
GENERAL: well appearing, NAD
HEENT:  OP clear, MMM
NECK:  supple, no cervical LAD
CARDIAC:  RRR, no murmurs 
LUNGS:  CTAB
ABDOMEN: NABS, soft, NT, ND
EXTREMITIES: wwp, no edema
NEUROLOGIC:  AOx3, facial symmetry, moving all extremities with
purpose
SKIN/GU: vesicular rash, right groin/labia that wraps around to
her right buttock

DISCHARGE PHYSICAL EXAM:
======================Vitals: 24 HR Data (last updated ___ 
@ 021)
    Temp: 98.8 (Tm 99.1), BP: 121/82 (101-122/58-82), HR: 77
(73-85), RR: 18 (___), O2 sat: 96% (96-97), O2 delivery: RA,
Wt: 143.7 lb/65.18 kg  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Abdomen: no tenderness over RLQ graft site, soft, non-tender,
non-distended, bowel sounds present, no rebound tenderness or
guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: Face grossly symmetric. Moving all limbs with purpose
against gravity. Not dysarthric. 
Skin/GU: vesicular rash, right groin/labia that wraps around to
her right buttock. Continued decreasing erythema and flattening
of vesicles. 

 
Pertinent Results:
ADMISSION LABS:
=============
___ 12:09PM BLOOD WBC-7.4 RBC-3.62* Hgb-10.7* Hct-34.7 
MCV-96 MCH-29.6 MCHC-30.8* RDW-13.8 RDWSD-48.9* Plt ___
___ 12:09PM BLOOD Neuts-77.3* Lymphs-13.8* Monos-8.1 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-5.71 AbsLymp-1.02* 
AbsMono-0.60 AbsEos-0.01* AbsBaso-0.03
___ 12:09PM BLOOD Glucose-92 UreaN-31* Creat-2.2* Na-141 
K-5.2 Cl-107 HCO3-22 AnGap-12
___ 12:09PM BLOOD ALT-9 AST-14 LD(LDH)-213 AlkPhos-44 
TotBili-0.2
___ 12:09PM BLOOD Albumin-3.6 Calcium-9.0 Phos-3.5 Mg-1.8

PERTINENT INTERMITTENT LABS:
=========================
___ 06:25AM BLOOD Glucose-83 UreaN-34* Creat-2.4* Na-142 
K-4.6 Cl-107 HCO3-23 AnGap-12
___ 21:14  Varicella Zoster Virus DNA, PCR: POSITIVE
___ 21:14  Herpes Simplex Virus, Type 1 & 2 DNA, 
Quantitative Real Time PCR: NEGATIVE

DISCHARGE LABS:
==============
___ 06:00AM BLOOD WBC-3.8* RBC-3.39* Hgb-10.3* Hct-32.0* 
MCV-94 MCH-30.4 MCHC-32.2 RDW-13.6 RDWSD-46.5* Plt ___
___ 06:00AM BLOOD Glucose-89 UreaN-41* Creat-2.4* Na-148* 
K-5.0 Cl-114* HCO3-20* AnGap-14
___ 06:00AM BLOOD Calcium-9.0 Phos-4.9* Mg-2.1
___ 04:59PM BLOOD Na-139
 
Brief Hospital Course:
SUMMARY FOR ADMISSION:
=======================
___ PMH ESRD ___ LRRT ___ (on MMF and pred), HLD, who presented
with 5 days of right hip pain followed by 3 days of unilateral
right inguinal and groin rash. 

ACUTE/ACTIVE ISSUES:
=====================
#VZV
Dermatomal distribution (S2) and description of pain preceding
vesicular rash are most consistent with a diagnosis of shingles. 
VZV PCR returned positive during admission. Rash and pain both 
began to improve with IV acyclovir 650mg Q12. She received 500cc 
both pre and post IV acyclovir dosing. Her pain was controlled 
with Tylenol. On day of discharge her pain and erythema were 
significatly improved, with flattening of vesicles. She was 
discharged on po valacyclovir with plans to continue taking it 
until she follows up with her PCP ___ ___ days for reevaluation. 

#AoCKD 
Patient has baseline creatinine of 2.0. She was admitted to the 
floor with elevated Cr (2.4) likely ___ receiving IV acyclovir 
w/o pre/post IVF in ED. She subsequently received IVF boluses as 
well as continued 500cc LR pre/post hydration with each dose of 
IV acyclovir. Cr at discharge remained 2.4.

#Lower Back Pain - IMPROVING
While lifting herself off of the commode, patient endorsed a 
sudden onset of LBP, described as severe bilateral ache in 
lumbosacral region. Pain did not radiate anywhere. It improved 
with Tylenol, flexeril, and lidocaine patch. On day of discharge 
her ability to ambulate was greatly improved. 

#Leukopenia: Mild and likely secondary to marrow suppression 
from her viral infection. 

CHRONIC ISSUES:
===============
# ESRD ___ GPA s/p LRRT ___: 
Baseline Cr ~2.
- Continued MMF 500mg BID
- Continued prednisone 10mg every other day. 
- Continued sodium bicarbonate 650mg Po BID

#HTN: 
- Continued home Lisinopril 10mg daily 

#Chronic anemia: 
- Likely secondary to CKD, stable throughout admission in the 
___. 

TRANSITIONAL ISSUES:
====================
Code status: Full, presumed
Contact: ___, husband, ___
Discharge creatinine: 2.4

[] Please follow up shingles rash on groin; if significantly 
improved, can consider stopping acyclovir, otherwise please 
continue the medication and follow up resolution when 
appropriate
[] Patient sustained lower back strain during this admission. 
Please reevaluate to ensure resolution and/or need for 
outpatient physical therapy. 
[] Consider a PPI for GI protection and Ca/VitD while on 
steroids.
[] Monitor kidney function (baseline 2.0, discharge 2.4)
[] Follow up white count to ensure recovery (mild leukopenia)
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Mycophenolate Mofetil 500 mg PO BID 
2. PredniSONE 10 mg PO EVERY OTHER DAY 
3. Lisinopril 10 mg PO DAILY 
4. Sodium Bicarbonate 650 mg PO BID 

 
Discharge Medications:
1.  ValACYclovir 1000 mg PO DAILY Duration: 7 Days 
RX *valacyclovir 1,000 mg 1 tablet(s) by mouth once a day Disp 
#*7 Tablet Refills:*0 
2.  Lisinopril 10 mg PO DAILY  
3.  Mycophenolate Mofetil 500 mg PO BID  
4.  PredniSONE 10 mg PO EVERY OTHER DAY  
5.  Sodium Bicarbonate 650 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
- Varicella Zoster

SECONDARY DIAGNOSIS:
- End stage renal disease status post living related renal 
transplant
- Acute on chronic kidney injury
- Low back pain
- Hypertension
- Anemia
- Leukopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure to care for you at the ___ 
___.  

WHY DID YOU COME TO THE HOSPITAL?
- You were having pain and a rash in your groin.

WHAT DID YOU RECEIVE IN THE HOSPITAL?
- We did blood work which confirmed your diagnosis of shingles. 
You were treated with medication for this through your IV. Your 
pain was able to be controlled on Tylenol. 

WHAT SHOULD YOU DO ONCE YOU LEAVE THE HOSPITAL?
- Please continue to take the medication to treat your shingles 
(valacyclovir) until your primary care physician is able to 
reevaluate your rash and need for continued treatment. 
- Please continue to take the rest of your medications as 
prescribed
- Please be sure to make it to your follow up appointments with 
your doctors ___ below). 

We wish you the best!  
Your ___ Care Team  
 
Followup Instructions:
___